US07566781B2
4-[(E)-2-(1,3-thiazol-2-yl)vinyl]benzenecarboxylic acid
A mixture of 4-(diethoxyphosphorylmethyl)benzenecarboxylic acid (440 mg) produced according to JP-A 11-60537, potassium tert-butoxide (340 mg) and THF (5.5 mL) was stirred at room temperature for about 1.5 hours, and then a THF solution (1.0 mL) of 2-formylthiazole (200 mg) was dropwise added thereto. After heated overnight under reflux, water was added to the reaction solution, and extracted with ethyl acetate. The organic layer was dried with anhydrous magnesium sulfate, and the solvent was evaporated off under reduced pressure. The resulting residue was purified through silica gel column chromatography (ethyl acetate/methanol=9/1), and the resulting purified product was further purified through reversed-phase HPLC to obtain the entitled compound (7 mg).

reactant | 4-(diethoxyphosphorylmethyl)benzenecarboxylic acid | 440 mg | C(C)OP(=O)(OCC)CC1=CC=C(C=C1)C(=O)O | C12H17O5P
reactant | potassium tert-butoxide | 340 mg | CC(C)([O-])C.[K+]
reactant | THF | 5.5 mL | C1CCOC1 | C4H8O
reactant | THF | 1.0 mL | C1CCOC1 | C4H8O
reactant | 2-formylthiazole | 200 mg | C(=O)C=1SC=CN1 | C4H3NOS
solvent | water | O | H2O
product | 4-[(E)-2-(1,3-thiazol-2-yl)vinyl]benzenecarboxylic acid | 7 mg | S1C(=NC=C1)/C=C/C1=CC=C(C=C1)C(=O)O | C12H9NO2S
